US05723450
4-[4-(O-Benzyloximino)cyclohexylamino]-3-methoxy-2-methylpyridine
2 g of 4-(4-oxocyclohexylamino)-3-methoxy-2-methylpyridine and 1.2 g O-benzylhydroxylamine are boiled in toluene in a water separator until liberation of water has ended. The product is isolated by column chromatography (ethyl acetate/methanol 9:1; silica gel). 1.8 g=53%

reactant | 4-(4-oxocyclohexylamino)-3-methoxy-2-methylpyridine | 2 g | O=C1CCC(CC1)NC1=C(C(=NC=C1)C)OC | C13H18N2O2
reactant | O-benzylhydroxylamine | 1.2 g | C(C1=CC=CC=C1)ON | C7H9NO
reactant | water | O | H2O
reactant | ethyl acetate methanol | C(C)(=O)OCC.CO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-[4-(O-Benzyloximino)cyclohexylamino]-3-methoxy-2-methylpyridine | C(C1=CC=CC=C1)ON=C1CCC(CC1)NC1=C(C(=NC=C1)C)OC | C20H25N3O2
